US09119868B2
Step 4: Methyl 2-(2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)acetate
A solution of methyl 2-(5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methyl-carbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrophenyl)acetate (1.00 g, 1.68 mmol) in THF (10 mL) was subjected to atmospheric hydrogenation in the presence of 20% palladium on charcoal. After 10 hours the reaction vessel was purged with nitrogen, catalyst removed by filtration through Celite, and the filtrate concentrated to dryness at reduced pressure. The crude material was subjected to flash chromatography (silica gel, hexane/EtOAc) to give the title compound in 65% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.84-7.92 (m, 2H) 7.68 (s, 1H) 7.39 (s, 1H) 7.23-7.30 (m, 3H) 7.18 (t, J=8.60 Hz, 2H) 6.66 (d, J=8.40 Hz, 1H) 5.84 (d, J=4.49 Hz, 1H) 4.11-4.19 (m, 2H) 3.68 (s, 3H) 3.52 (s, 2H) 3.14-3.20 (m, 3H) 2.94-3.02 (m, 3H) 2.21-2.30 (m, 1H) 0.96 (br. s., 2H). LCMS (m/z, ES+)=566 (M+H+).

reactant | methyl 2-(5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methyl-carbamoyl)benzofuran-6-yl)methylsulfonamido)-2-nitrophenyl)acetate | 1.68 mmol, 1.00 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=CC(=C(C1)CC(=O)OC)[N+](=O)[O-] | C29H26FN3O8S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | [Pd] | Pd
product | Methyl 2-(2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)acetate | 65% yield | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1)CC(=O)OC | C29H28FN3O6S
